US08304036B2
A mixture of 27.9 g (0.11 mol) of 2-iodoselenophene, 15.0 g (0.11 mol) of 2-hydroxyphenylboronic acid, 6.8 g (5.88 mmol) of tetrakis(triphenylphosphine)palladium(0) and 235 ml of 2 N sodium carbonate soln. in 600 ml of toluene/ethanol (1:1) is heated under reflux for 19 h. The mixture is diluted with MTBE and washed with water. The aqueous phase is extracted with MTBE, and the combined organic phases are washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:MTBE=4:1→1:1). Further purification is carried out by digestion in cold n-heptane; 4-selenophen-2-ylphenol is obtained as a beige solid.

reactant | 2-iodoselenophene | 0.11 mol, 27.9 g | IC=1[Se]C=CC1 | C4H3ISe
reactant | 2-hydroxyphenylboronic acid | 0.11 mol, 15.0 g | OC1=C(C=CC=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 2 N, 235 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 600 ml | C1(=CC=CC=C1)C.C(C)O
solvent | MTBE | CC(C)(C)OC | C5H12O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.88 mmol, 6.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-selenophen-2-ylphenol | [Se]1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OSe
